US09402841B2
Step F: 8-fluoro-1-oxo-1,2-dihydroisoquinoline-3-carboxamide
To a vessel containing NH3/MeOH (140 mL) was added methyl 8-fluoro-1-oxo-1,2-dihydroisoquinoline-3-carboxylate (5 g, 15 mmol). The vessel was sealed and the solution was stirred at RT for 30 minutes and then heated to reflux for 2 hours. The reaction mixture was concentrated in vacuo to give the title compound, which was used without further purification (5 g, 85%). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.26 (s, 1H), 8.32 (s, 1H), 7.92 (s, 1H), 7.82-7.81 (m, 1H), 7.61-7.59 (d, J=8.0 Hz, 1H), 7.41-7.35 (m, 1H).

reactant | methyl 8-fluoro-1-oxo-1,2-dihydroisoquinoline-3-carboxylate | 15 mmol, 5 g | FC=1C=CC=C2C=C(NC(C12)=O)C(=O)OC | C11H8FNO3
reactant | NH3 MeOH | 140 mL | N.CO
product | 8-fluoro-1-oxo-1,2-dihydroisoquinoline-3-carboxamide | FC=1C=CC=C2C=C(NC(C12)=O)C(=O)N | C10H7FN2O2
